US07348438B2
1-(5,6-DiChloro-1H-benzoimidazol-2-yl-)2,2,2-trifluoro-ethanol
4,5-Dichloro-benzene-1,2-diamine (8.50 g; 48.0 mmoles) and 3,3,3-trifluoro-2-hydroxy-propionic acid (10.59 g; 73.52 mmoles) were suspended in 6N HCl (19 mL; 114 mmoles) under a nitrogen atmosphere. The reaction was stirred vigorously and heated to 108° C. for 18 hrs, then cooled to room temperature. The reaction was diluted with water (200 mL) and with ethyl acetate (200 mL), then sodium bicarbonate (6.05 g; 72.0 mmoles) was added slowly and in portions to quench the reaction. The aqueous layer was separated and extracted with ethyl acetate (3×80 mL). The extracts were combined, washed with water (60 mL) and brine (60 mL), then dried over Na2SO4. The filtrate was concentrated in vacuo to yield a crude brown solid which was then purified by column chromatography (SiO2; 30% ethyl acetate/CH2Cl2) to yield the title compound as a brown solid.

reactant | 4,5-Dichloro-benzene-1,2-diamine | 48.0 mmoles, 8.50 g | ClC=1C=C(C(=CC1Cl)N)N | C6H6Cl2N2
reactant | 3,3,3-trifluoro-2-hydroxy-propionic acid | 73.52 mmoles, 10.59 g | FC(C(C(=O)O)O)(F)F | C3H3F3O3
reactant | HCl | 114 mmoles, 6N, 19 mL | Cl | ClH
reactant | sodium bicarbonate | 72.0 mmoles, 6.05 g | C([O-])(O)=O.[Na+]
solvent | water | 200 mL | O | H2O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 1-(5,6-DiChloro-1H-benzoimidazol-2-yl-)2,2,2-trifluoro-ethanol | ClC1=CC2=C(NC(=N2)C(C(F)(F)F)O)C=C1Cl | C9H5Cl2F3N2O
